US05260423
Preparation of 7-dimethoxymethylbenzo-1,2,3-thiadiazole (Comp. No. 1.12)
A solution of 3.3 g of 7-formylbenzo-1,2,3-thiadiazole in 50 ml of methanol and 0.2 g of p-toluenesulfonic acid is refluxed for 6 hours in a Soxhlet apparatus charged with a molecular sieve A4. The mixture is then cooled, rendered basic using solid potassium carbonate, filtered through Hyflo and evaporated. The residue is purified on silica gel using hexane/ethyl acetate (1:1), resulting in the title compound of refractive index nD21 =1.5750.

reactant | 7-formylbenzo-1,2,3-thiadiazole | 3.3 g | C(=O)C1=CC=CC=2N=NSC21 | C7H4N2OS
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 7-dimethoxymethylbenzo-1,2,3-thiadiazole | COC(C1=CC=CC=2N=NSC21)OC | C9H10N2O2S
